* Created by KLayout
*** My special header ***

* cell inverter
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT inverter A Q VDD VSS
* device instance $1 r0 *1 -0.5,6.8 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 -0.5,-18.3 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter
